US07763639B2
4-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]-1-METHYLPIPERIDINE
To a solution of 4-[2-fluoro-3-(methylsulfonyl)-phenyl]-piperidine (0.02 g, 0.078 mmol) in acetonitrile (2 ml) was added potassium carbonate (0.02 g, 0.14 mmol) and iodomethane (0.0047 ml, 0.078 mmol). The mixture was stirred at ambient temperature for 1 h. MS m/z (relative intensity, 70 eV) 271 (M+, 66), 270 (bp), 192 (9), 133 (13) 97 (32).

reactant | 4-[2-fluoro-3-(methylsulfonyl)-phenyl]-piperidine | 0.078 mmol, 0.02 g | FC1=C(C=CC=C1S(=O)(=O)C)C1CCNCC1 | C12H16FNO2S
reactant | potassium carbonate | 0.14 mmol, 0.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.078 mmol, 0.0047 ml | IC | CH3I
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 4-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]-1-METHYLPIPERIDINE | FC1=C(C=CC=C1S(=O)(=O)C)C1CCN(CC1)C | C13H18FNO2S
